US07034039B2
To a solution of ethyl 6-fluoro-4-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (3.21 g, 10 mmol), 1-butanol (1.4 ml, 15 mmol) and tributylphosphine (5.0 ml, 20 mmol) in tetrahydrofuran (30 ml) was added 1,1′-azodicarbonylpiperidine (5.05 g, 20 mmol) and the mixture was stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give ethyl 4-butoxy-6-fluoro-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (3.55 g, 94.2%) as an oil.

reactant | ethyl 6-fluoro-4-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 10 mmol, 3.21 g | FC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)(C)C)C(=O)OCC)O | C17H20FNO4
reactant | 1-butanol | 15 mmol, 1.4 ml | C(CCC)O | C4H10O
reactant | tributylphosphine | 20 mmol, 5.0 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl 4-butoxy-6-fluoro-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 3.55 g, 94.2% | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)F)=O)CC(C)(C)C)C(=O)OCC | C21H28FNO4
